US04622326
6-Ethyl-3-(4-methoxyphenyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine
1-Ethyl-4-hydroxy-5-(4-methoxybenzoyl)-1H-pyrazolo[3,4-b]pyridine (3.60 g) was refluxed overnight in 30 ml of pyridine containing 4.0 g of hydroxylamine hydrochloride. At the end of this time the pyridine was evaporated and the residue triturated with 5% hydrochloric acid. The product obtained in this manner was chromatographed over silica gel (5% methanol/dichloromethane) to remove a fluorescent impurity. Combination of the appropriate fractions and recrystallization from dichloromethane/hexane gave 2.95 g of pure product, mp 156°-157° C.

reactant | 1-Ethyl-4-hydroxy-5-(4-methoxybenzoyl)-1H-pyrazolo[3,4-b]pyridine | 3.60 g | C(C)N1N=CC=2C1=NC=C(C2O)C(C2=CC=C(C=C2)OC)=O | C16H15N3O3
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 30 ml, 4.0 g | N1=CC=CC=C1 | C5H5N
product | 6-Ethyl-3-(4-methoxyphenyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine | 2.95 g | C(C)N1N=CC=2C1=NC=C1C2ON=C1C1=CC=C(C=C1)OC | C16H14N4O2
